US03966736
In the manner given in Example 21, to 2,9-dihydro-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepin-3-one in dimethylformamide is added a solution of sodium hydride in mineral oil. The mixture is allowed to react at about 95° C. for 40 minutes and after cooling with (2-chloroethyl)dimethylamine in xylene is added. The mixture is kept at 95°-100° C. for a period of 22 hours, evaporated and worked up as in example 25 to give 2,9-dihydro-2-[(dimethylamino)ethyl]-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]-benzodiazepin-3-one.

reactant | 2,9-dihydro-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepin-3-one | C(CC)N(CCC)CC(=O)N1C2=C(C=3N(C4=C1C=CC=C4)C(NN3)=O)C=CC=N2 | C21H24N6O2
reactant | sodium hydride | [H-].[Na+]
reactant | (2-chloroethyl)dimethylamine | ClCCN(C)C | C4H10ClN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,9-dihydro-2-[(dimethylamino)ethyl]-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]-benzodiazepin-3-one | CN(C)CCN1N=C2N(C3=C(N(C4=C2C=CC=N4)C(CN(CCC)CCC)=O)C=CC=C3)C1=O | C25H33N7O2
